US06737425B1
Synthesis of 1-[2-(4-Fluorophenoxy)propyl]piperazine
1-Formyl piperazine (2.8 g) and 2-(4-fluorophenoxy)propyl chloride (4.7 g) were dissolved in dimethylformamide (60 ml), and sodium iodide (3.2 g) and triethylamine (4.4 ml) were added thereto, and the mixture was stirred overnight at 50 to 70° C. The organic layer was partitioned by adding water and ethyl acetate, washed with brine, dried over sodium sulfate anhydrous, and evaporated. The residue was purified by Cromatorex NH silica gel column chromatography (ethyl acetate). The resulting yellow oil (12.3 g) was dissolved in methanol (20 ml), and 5N aqueous sodium hydroxide (10 ml) was added thereto and then stirred for 1 hour under reflux. The reaction mixture was evaporated, then the organic layer was partitioned by adding water and ethyl acetate, washed with brine, and dried over sodium sulfate anhydrous. The residue obtained by evaporation was purified by Cromatorex NH silica gel column chromatography (ethyl acetate/methanol system), whereby the title compound (2.2 g, 38%) was obtained as a pale yellow oil.

reactant | 1-Formyl piperazine | 2.8 g | C(=O)N1CCNCC1 | C5H10N2O
reactant | 2-(4-fluorophenoxy)propyl chloride | 4.7 g | FC1=CC=C(OC(CCl)C)C=C1 | C9H10ClFO
reactant | sodium iodide | 3.2 g | [I-].[Na+]
reactant | triethylamine | 4.4 ml | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | 1-[2-(4-Fluorophenoxy)propyl]piperazine | FC1=CC=C(OC(CN2CCNCC2)C)C=C1 | C13H19FN2O
